US05599825
3) Synthesis of 3-methoxyethoxyethoxyethylnaphtho[2,1-d]thiazoline-2-thion
1.7 g of 3-methoxyethoxyethoxyethylnaphtho[2,1-d]thiazoline-2-on, 2.4 g of Lawesson's reagent and 10 ml of toluene were fed into a 50 ml short-neck flask provided with a reflux condenser. The resultant mixture was heated under reflux and stirring for 2 hours. After cooling to room temperature followed by purification by column chromatography (hexane:ethyl acetate=3:1), the intended compound was obtained.

reactant | 3-methoxyethoxyethoxyethylnaphtho[2,1-d]thiazoline-2-on | 1.7 g | COCCOCCOCCN1C(SC2=C1C=CC1=CC=CC=C12)=O | C18H21NO4S
reactant | Lawesson's reagent | 2.4 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-methoxyethoxyethoxyethylnaphtho[2,1-d]thiazoline-2-thion | COCCOCCOCCN1C(SC2=C1C=CC1=CC=CC=C12)=S | C18H21NO3S2
